US05574097
Enzyme-catalyzed Hydrolysis of Polymer from Methacryloyloxymethyl Benzoate
50 mg samples of the polymer (Example 23), as finely divided powder, and 20 ml 0.9% aqueous NaCl were added to each of three reaction vials. To one of the vials was also added 0.1 ml esterase from porcine liver in 3.2M (NH4)2SO4, (Sigma E-3128, 250U). To another of the vials was added 0.1 ml 3.2M (NH4)2SO4. Using a pH-stat (Radiometer), the pH within each of the vials was kept constant at 8.0 by adding 0.1M NaOH. By recording the consumption of NaOH, the rates of hydrolysis were calculated. Over 45 hours at 37° C., the hydrolysis of the polymer with esterase was found to be 11 times faster than the control with (NH4)2SO4 without esterase. In the control containing polymer in 0.9% NaCl no hydrolysis was found (see FIG. 1 of the accompanying drawing).

reactant | E-3128 | CN1C2=C(C3=CC=CC=C3S1(=O)=O)OC(=O)N(C2=O)C4=CC=CC=N4 | C16H11N3O5S
reactant | NaOH | 0.1M | [OH-].[Na+]
solvent | NaCl | [Na+].[Cl-]
solvent | NaCl | 20 ml | [Na+].[Cl-]
product | Methacryloyloxymethyl Benzoate | C(C1=CC=CC=C1)(=O)OCOC(C(=C)C)=O | C12H12O4
